US04118386
8-Bromo-6-(2-pyridyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester
A solution of 15.8 g (0.05 mol) of 7-bromo-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepin-2-one in 300 ml of dry tetrahydrofuran was cooled to 10° with stirring under argon. Potassium tert. butoxide 6.3 g (0.056 mol) was added and stirring was continued for 10 min. Following the addition of 14 ml of diethyl chlorophosphate the mixture was stirred for additional 20 min. A previously prepared mixture of 11.3 g ethyl isocyanoacetate, 11.3 g of potassium tert. butoxide and 300 ml of tetrahydrofuran was then poured into the reaction mixture.

reactant | 7-bromo-1,3-dihydro-5-(2-pyridyl)-2H-1,4-benzodiazepin-2-one | 0.05 mol, 15.8 g | BrC=1C=CC2=C(C(=NCC(N2)=O)C2=NC=CC=C2)C1 | C14H10BrN3O
reactant | Potassium tert. butoxide | 0.056 mol, 6.3 g | CC(C)([O-])C.[K+]
reactant | diethyl chlorophosphate | 14 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | ethyl isocyanoacetate | 11.3 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium tert. butoxide | 11.3 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 8-Bromo-6-(2-pyridyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester | BrC=1C=CC2=C(C(=NCC=3N2C=NC3C(=O)OCC)C3=NC=CC=C3)C1 | C19H15BrN4O2
